US04191841
By way of comparison, a test was carried out with a larger amount of ethylene glycol than that of Example 6. By heating under nitrogen with distillation 212 g (1 mole) of TMBA, 194 g (3 moles) of potash in pellets and 800 ml of ethylene glycol, reaction takes place. The temperature passes from 151° to 190° C. in 1 hour 20; it is held for 2 hours at 190° C. After cooling, dilution with water and neutralization to pH 6, there was obtained, by toluene extraction, 101 g of 2,6-dimethoxy phenol namely a yield of 65.6%. After recrystallization in a water/methanol mixture, with 10% of methanol, the product melted at 54°-55° C. By using a larger amount of ethylene glycol, demethylation and decarboxylation were hence produced.

reactant | ethylene glycol | C(CO)O | C2H6O2
reactant | TMBA | 1 mole, 212 g | COC1=CC(=CC(=C1OC)OC)C=O | C10H12O4
reactant | potash | 3 moles, 194 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethylene glycol | 800 ml | C(CO)O | C2H6O2
reactant | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2,6-dimethoxy phenol | 101 g, yield of 65.6% | COC1=C(C(=CC=C1)OC)O | C8H10O3
